US08133901B2
(RS)-Benzofuran-4-carboxylic acid{1-[5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}amide
prepared by reaction of 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid with (RS)-benzofuran-4-carboxylic acid piperidin-3-ylamide.

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carboxylic acid | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)O | C11H8FNO2S
reactant | (RS)-benzofuran-4-carboxylic acid piperidin-3-ylamide | N1CC(CCC1)NC(=O)C=1C=CC=C2C1C=CO2 | C14H16N2O2
product | (RS)-Benzofuran-4-carboxylic acid{1-[5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl]-piperidin-3-yl}amide | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1CC(CCC1)NC(=O)C=1C=CC=C2C1C=CO2 | C25H22FN3O3S
